US05302720
A mixture of 2-amino-4'-methanesulphonylbiphenyl hydrochloride (2.3 g), N-cyanopiperidine (1.3 g) and m-cresol (10 ml) was heated at 90°-95° C. for 10 hours to give N-(4'-methanesulphonyl-2-biphenylyl)piperidine-1-carboxamidine (m.p. 128°-129° C.) which was recrystallised from hexane.

reactant | 2-amino-4'-methanesulphonylbiphenyl hydrochloride | 2.3 g | Cl.NC1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C
reactant | N-cyanopiperidine | 1.3 g | C(#N)N1CCCCC1 | C6H10N2
solvent | m-cresol | 10 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(4'-methanesulphonyl-2-biphenylyl)piperidine-1-carboxamidine | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)NC(=N)N1CCCCC1 | C19H23N3O2S
